US08314103B2
2-Chloro-N-(6-cyanopyridin-3-yl)acetamide
Triethylamine (0.50 g, 4.9 mmol) and chloroacetyl chloride (0.56 g, 4.9 mmol) were added dropwise at 0° C. to a stirred suspension of 5-Amino-2-cyanopyridine (0.27 g, 2.25 mmol) in chloroform (10 mL). The mixture was stirred at room temperature for 12 hours. The reaction mixture was diluted with chloroform (50 mL) and washed with water (2×50 mL). The organic layer was dried over anhydrous sodium sulfate, concentrated and the crude product obtained was crystallized from chloroform:petroleum ether (1:2) to obtain the title compound.

reactant | Triethylamine | 4.9 mmol, 0.50 g | C(C)N(CC)CC | C6H15N
reactant | chloroacetyl chloride | 4.9 mmol, 0.56 g | ClCC(=O)Cl | C2H2Cl2O
reactant | 5-Amino-2-cyanopyridine | 2.25 mmol, 0.27 g | NC=1C=CC(=NC1)C#N | C6H5N3
solvent | chloroform | 10 mL | C(Cl)(Cl)Cl | CHCl3
solvent | chloroform | 50 mL | C(Cl)(Cl)Cl | CHCl3
product | 2-Chloro-N-(6-cyanopyridin-3-yl)acetamide | ClCC(=O)NC=1C=NC(=CC1)C#N | C8H6ClN3O
